US05506256
B) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine
By the same procedure as in Example 26-D), while using (2S)-1-(tert-butoxycarbonyl)-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine (1.90 g) and N-(tert-butoxycarbonyl)-L-proline (1.38 g), there was obtained 1.85 g of the title compound.

reactant | (2S)-1-(tert-butoxycarbonyl)-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine | 1.90 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)F)O | C17H24FNO4
reactant | N-(tert-butoxycarbonyl)-L-proline | 1.38 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine | 1.85 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)F)O)CCC1 | C22H31FN2O5
